US09371320B2
F) 1-cyclohexyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate
To a solution of 1-cyclohexyl-4-methoxy-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one (78 mg) and pyridine (150 mg) in acetonitrile (10 mL) was added trifluoromethanesulfonic anhydride (356 mg), and the mixture was stirred at 0° C. for 30 min, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (60 mg).

reactant | 1-cyclohexyl-4-methoxy-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one | 78 mg | C1(CCCCC1)N1NC(C=2C(=NC=CC21)OC)=O | C13H17N3O2
reactant | pyridine | 150 mg | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 356 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-cyclohexyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate | 60 mg | FC(S(=O)(=O)OC1=NN(C2=C1C(=NC=C2)OC)C2CCCCC2)(F)F | C14H16F3N3O4S
